* C:\Users\dubj0904\Documents\GitHub\S6App1\Jeremy\LaboE3.asc
V1 N001 0 1
Q1 N001 N002 0 0 2N2222
I1 0 N002 1m
.model NPN NPN
.model PNP PNP
.lib C:\Users\dubj0904\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc V1 0 10 0.1 I1 0 0.5u 0.01u
.lib 2N3055A_UdeS.lib
.backanno
.end
